US07932272B2
(5-Phenylaminomethyl-furan-2-yl)-methanol
Then, the resulting mixture of acetic acid 5-phenylaminomethyl-furan-2-ylmethyl ester and aniline (2.91 g) as well as potassium carbonate (3.28 g, 23.7 mmol) were suspended in methanol (60 mL), and the solution was stirred overnight at room temperature. The reaction solution was evaporated in vacuo, water and ethyl acetate were added to the residue, the organic layer was partitioned, washed with brine and dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was purified by NH silica gel column chromatography (hexane:ethyl acetate=1:1), and the title compound (1.99 g, 9.79 mmol, 82%) was obtained as a colorless oil.

reactant | acetic acid 5-phenylaminomethyl-furan-2-ylmethyl ester | C1(=CC=CC=C1)NCC1=CC=C(O1)COC(C)=O | C14H15NO3
reactant | aniline | 2.91 g | NC1=CC=CC=C1 | C6H7N
reactant | potassium carbonate | 23.7 mmol, 3.28 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 60 mL | CO | CH4O
product | (5-Phenylaminomethyl-furan-2-yl)-methanol | 9.79 mmol, 1.99 g, 82% | C1(=CC=CC=C1)NCC1=CC=C(O1)CO | C12H13NO2
